US04475992
The same procedure as in Example 6 was repeated by using 226 mg of 2,6-diethoxy-4-methoxy-4-methyl-2,5-cyclohexadienone and 10 mg of perchloric acid, recovering 180 mg of an oily crude product. The crude product was purified by silica gel column chromatography using a 20:1 benzene-ethyl acetate mixture, giving 175 mg of 2,6-diethoxy-4-methylidene-2,5-cyclohexadienone in 90% of theoretical yield. The compound thus obtained was identified by NMR.

reactant | 2,6-diethoxy-4-methoxy-4-methyl-2,5-cyclohexadienone | 226 mg | C(C)OC=1C(C(=CC(C1)(C)OC)OCC)=O | C12H18O4
reactant | perchloric acid | 10 mg | Cl(=O)(=O)(=O)O | ClHO4
product | 2,6-diethoxy-4-methylidene-2,5-cyclohexadienone | 175 mg | C(C)OC=1C(C(=CC(C1)=C)OCC)=O | C11H14O3
